data/oMe_Silver.jsonl
{"reaction_id": "NR-110_1-c1ccccc1C_2-S(=O)(=O)c1ccccc1_3-C_4-c1ccc(C(F)(F)F)cc1","name": "Horner-Wadsworth-Emmons Reaction","level": "medium","reactants_smiles": ["P(=O)(Oc1ccccc1C)(Oc1ccccc1C)C(S(=O)(=O)c1ccccc1)C","O=Cc1ccc(C(F)(F)F)cc1"],"products_smiles": ["C(c1ccc(C(F)(F)F)cc1)=C(S(=O)(=O)c1ccccc1)C"],"conditions": "Base","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "P(=O)(Oc1ccccc1C)(Oc1ccccc1C)[C-](S(=O)(=O)c1ccccc1)C","rationale": "The base abstracts the acidic α-proton next to the phosphonate due to strong electron-withdrawing effects of the P=O group, stabilizing the resulting carbanion via resonance."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "P(=O)(Oc1ccccc1C)(Oc1ccccc1C)C(S(=O)(=O)c1ccccc1)(C)C([O-])c1ccc(C(F)(F)F)cc1","rationale": "The nucleophilic carbanion attacks the electrophilic carbonyl carbon of the aldehyde, driven by the strong polarization of the C=O bond."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "c1ccccc1COP1([O-])(Oc1ccccc1C)C(S(=O)(=O)c1ccccc1)(C)C(c1ccc(C(F)(F)F)cc1)O1","rationale": "Intramolecular attack of the alkoxide on phosphorus forms a four-membered oxaphosphetane, favored by proximity and the strong P–O bond formation."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(c1ccc(C(F)(F)F)cc1)=C(S(=O)(=O)c1ccccc1)C","rationale": "The oxaphosphetane collapses, eliminating the phosphate group as a stable leaving group, driven by formation of the thermodynamically stable C=C bond."}],"description": "Under basic conditions, the Horner–Wadsworth–Emmons reaction proceeds via deprotonation of the phosphonate to form a stabilized carbanion, nucleophilic attack on the aldehyde, cyclization to an oxaphosphetane intermediate, and elimination to yield the alkene product with high selectivity."}
{"reaction_id": "NG-007_1-CC(=O)C_2-c1ccc(F)cc1_3-CN(C)C(=O)C","name": "Appel reaction","level": "medium","reactants_smiles": ["C(CC(=O)C)(c1ccc(F)cc1)(CN(C)C(=O)C)O"],"products_smiles": ["C(CC(=O)C)(c1ccc(F)cc1)(CN(C)C(=O)C)Br"],"conditions": "Ph3P, CBr4","mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[P+](c1ccccc1)(c1ccccc1)(c1ccccc1)Br.[C-](Br)(Br)Br","rationale": "Triphenylphosphine, a strong nucleophile due to its lone pair on phosphorus, attacks electrophilic CBr4, displacing bromide and forming a bromophosphonium species stabilized by the electron-withdrawing phenyl groups."},{"step": 2,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[O-]C(CC(=O)C)(c1ccc(F)cc1)(CN(C)C(=O)C).BrC(Br)(Br)","rationale": "Bromide, a good base under these conditions, abstracts the acidic proton from the alcohol, driven by the formation of a resonance-stabilized alkoxide and the high acidity of the proton in polarizable medium."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "[P+](OC(CC(=O)C)(c1ccc(F)cc1)(CN(C)C(=O)C))(c1ccccc1)(c1ccccc1)c1ccccc1.[Br-]","rationale": "The alkoxide, a strong nucleophile, attacks the electrophilic phosphorus center of the bromophosphonium ion, favored by phosphorus's ability to expand its coordination number and the poor leaving group ability of bromide from carbon."},{"step": 4,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(CC(=O)C)(c1ccc(F)cc1)(CN(C)C(=O)C)Br.O=P(c1ccccc1)(c1ccccc1)c1ccccc1","rationale": "Bromide attacks the electrophilic carbon in the oxyphosphonium intermediate via SN2, favored by the excellent leaving group ability of triphenylphosphine oxide and the strong nucleophilicity of bromide."}],"description": "In the Appel reaction, triphenylphosphine reacts with carbon tetrabromide to generate an electrophilic bromophosphonium species and bromide. The alcohol is deprotonated, then the alkoxide attacks the phosphonium center, forming an oxyphosphonium intermediate. Bromide then displaces the oxygen, yielding the alkyl bromide and triphenylphosphine oxide."}
